US05852031
A solution of 1.70 g (4.38 mmol) of benzy triphenyl phosphonium chloride in 20 mL of dry THF was chilled to -78° C. and treated with 1.75 mL (4.38 mmol) of n-butyllithium (2.5M in hexane). After 15 min, 1.05 g (3.98 mmol) of (7R,9aS)-7-formyl-2-(5-fluoropyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine in 20 mL of dry THF was added dropwise over 30 min, the cooling bath was removed and the solution allowed to warm slowly to ambient temperature overnight (16 h). The solution was concentrated in vacuo and the residue was partitioned between ethyl ether and water. The organic layer was dried (magnesium sulfate), filtered and evaporated. Purification by flash silica gel chromatography with petroleum ether:ethyl ether in ratios from 4:1 to 3:1 gave the following isomers of 7-(2-phenyl)ethenyl-2-(5-fluoropyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine: E-(7S,9aS), 0.19 g (Rf=0.75 with 3:1 hexane:ethyl acetate); Z-(7R,9aS), 0.16 g (Rf=0.47 with 3:1 hexane:ethyl acetate); E-(7R,9aS), 0.46 g (Rf=23 with 3:1 hexane:ethyl acetate).

reactant | triphenyl phosphonium chloride | 4.38 mmol, 1.70 g | [Cl-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyllithium | 4.38 mmol, 2.5M, 1.75 mL | C(CCC)[Li]
reactant | (7R,9aS)-7-formyl-2-(5-fluoropyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 3.98 mmol, 1.05 g | C(=O)[C@@H]1CC[C@@H]2N(CCN(C2)C2=NC=C(C=N2)F)C1 | C13H17FN4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 7-(2-phenyl)ethenyl-2-(5-fluoropyrimidin-2-yl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | C1(=CC=CC=C1)C=CC1CCC2N(CCN(C2)C2=NC=C(C=N2)F)C1 | C20H23FN4
